US05654299
b. 1-Benzyloxycarbonyl-4-(2-pyridyl)-1,2,3,6-tetrahydropyridine
A solution of 1-benzyloxycarbonyl-4-hydroxy-4-(2-pyridyl)piperidine (0.8 g) in 20 mL of dichloromethane at 0° C. was treated with pyridine (2 mL) followed by thionyl chloride (0.22 mL). The reaction mixture was allowed to warm to the room temperature and stirred for 16 hours. At the end of this period, the reaction mixture was diluted with water and extracted twice with ethyl acetate. The organic layer was washed with a solution of copper sulfate, dried over magnesium sulfate and concentrated under reduce pressure to obtain the crude material. This material was purified by column chromatography; elution with 1:1 hexane:ethylacetate afforded the named product (0.48 g); MS: 295; NMR: 2.67 (m, 2), 3.74 (m, 2), 4.2 (m, 2), 5.18 (s, 2), 6.6 (m, 1), 7.18 (m, 1), 7.36 (m, 6), 7.68 (m, 1), 8.56 (m, 1).

reactant | 1-benzyloxycarbonyl-4-hydroxy-4-(2-pyridyl)piperidine | 0.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=NC=CC=C1)O | C18H20N2O3
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.22 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-Benzyloxycarbonyl-4-(2-pyridyl)-1,2,3,6-tetrahydropyridine | 0.48 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C1=NC=CC=C1 | C18H18N2O2
